US05155268
N-[4-[2-(Hexahydro-1H-azepin-1-yl)-1-hydroxyethyl]phenyl]methanesulfonamide, Chart I; Step VII
To a nitrogen covered mixture of 1.39 g (4.01 mmol) of the ketone, N-[4-[2-(Hexahydro-1H-azepin-1-yl)-1-oxoethyl]phenyl]methanesulfonamide from Preparation 7 in 25 ml of absolute EtOH, cooled in a cold bath is added 0.332 g (8.78 mmol) of sodium borohydride in portions over 10 min. Stirring is continued in the cold for 15 min and at ambient temperature for 2.5 hrs and an additional 0.193 g (5.10 mmol) of sodium borohydride is added. After stirring for an additional 1.5 hrs at ambient temperature, there is added an additional 0.202 g (5.34 mmol) of sodium borohydride. At the end of a total of 6 hrs, a suspended solid is collected on a filter, washed with EtOH and the combined filtrates are concentrated in vacuo. A solution of the residue in 25 ml of H2O is cooled in an ice bath, acidified to pH 3 with 2.5N HCl, washed twice with EtOAc, and then made basic with solid NaHCO3. The mixture is then saturated with NaCl and extracted four times with CH2Cl2. The combined extracts are washed with dilute brine, dried over MgSO4 and concentrated in vacuo. The residue is chromatographed on a 150 ml silica gel column (elution with 5% MeOH:CH2Cl2 containing 0.5% NH4OH) and 4.8 ml fractions are collected. Fractions at approximately 138-290 are combined and recrystallized from EtOAc to yield the title compound in two crops. M.p. 123°-124° C. and m.p. 120°-122.5° C.

reactant | N-[4-[2-(Hexahydro-1H-azepin-1-yl)-1-oxoethyl]phenyl]methanesulfonamide | N1(CCCCCC1)CC(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C15H22N2O3S
reactant | sodium borohydride | 8.78 mmol, 0.332 g | [BH4-].[Na+]
reactant | sodium borohydride | 5.10 mmol, 0.193 g | [BH4-].[Na+]
reactant | sodium borohydride | 5.34 mmol, 0.202 g | [BH4-].[Na+]
solvent | EtOH | 25 ml | CCO | C2H6O
product | N-[4-[2-(Hexahydro-1H-azepin-1-yl)-1-hydroxyethyl]phenyl]methanesulfonamide | N1(CCCCCC1)CC(O)C1=CC=C(C=C1)NS(=O)(=O)C | C15H24N2O3S
